US07211705B2
Dye-labeled poly(4-tert-butylstyrene)-supported pyridylpiperazine catalyst for the acylation of phenols. 4-Vinylbenzylchloride was passed through neutral alumina to remove any inhibitors. 1-(4-Vinylbenzyl)-4-pyridylpiperazine was prepared by dissolving 4.32 mL of 4-vinylbenzylchloride and 10 g of N-(4-pyridyl)piperazine in 100 mL of methanol. The solution was allowed to reflux overnight. After cooling to room temperature, 20 mL of 6 N HCl was added and the solution was extracted three times with ether. The ether extracts were discarded and 20 g of NaOH in 20 mL of water was added dropwise to the aqueous solution. The resulting precipitate was recovered by filtration and purified by column chromatography using 5% triethylamine in ethyl acetate as the eluent. Removal of the solvent under reduced pressure produced the product in 72.1% yield. 1H NMR: δ 8.2 (d, 6.6 Hz, 2H), 7.3 (dd, J=6.4, 6.6 Hz, 4H), 6.7 (dd, J=10.7, 17.6 Hz, 1H), 6.6 (d, 6.4 Hz, 2H), 5.7 (d, 17.6 Hz, 1H), 5.2 (d, 10.7 Hz, 1H), 3.5 (s, 1H), 3.3 (t, 5.2 Hz, 4H), 2.5 (t, 5.1 Hz, 4H). 13C NMR: δ 155.2, 150.4, 137.6, 136.9, 136.7, 130.0, 126.4, 113.9, 108.5, 62.9, 52.7, 46.1.

reactant | poly(4-tert-butylstyrene) | CC(C)(C)C1=CC=C(C=C1)C=C | C12H16
reactant | 4-Vinylbenzylchloride | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
reactant | 4-vinylbenzylchloride | 4.32 mL | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
reactant | N-(4-pyridyl)piperazine | 10 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | HCl | 6 N, 20 mL | Cl | ClH
catalyst | pyridylpiperazine | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
solvent | methanol | 100 mL | CO | CH4O
product | 1-(4-Vinylbenzyl)-4-pyridylpiperazine | 72.1% yield | C(=C)C1=CC=C(CN2CC=C(C=C2)N2CCNCC2)C=C1 | C18H23N3
